US04219559
A mixture of 7.5 parts of 1-(4-fluorophenylmethyl)-N-[1-{2-[4-(phenylmethoxy)phenyl]ethyl}-4-piperidinyl]-1H-benzimidazol-2-amine and 120 parts of methanol is hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is suspended in 2,2'-oxybispropane. The product is filtered off and dried, yielding 5.5 parts (88.5%) of 4-[2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}ethyl]phenol hemihydrate; mp. 111.6° C.

reactant | 1-(4-fluorophenylmethyl)-N-[1-{2-[4-(phenylmethoxy)phenyl]ethyl}-4-piperidinyl]-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCC2=CC=C(C=C2)OCC2=CC=CC=C2 | C34H35FN4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 4-[2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}ethyl]phenol hemihydrate | 88.5% | O.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCC2=CC=C(C=C2)O.FC2=CC=C(C=C2)CN2C(=NC1=C2C=CC=C1)NC1CCN(CC1)CCC1=CC=C(C=C1)O | InChI=1S/2C27H29FN4O.H2O/c2*28-22-9-5-21(6-10-22)19-32-26-4-2-1-3-25(26)30-27(32)29-23-14-17-31(18-15-23)16-13-20-7-11-24(33)12-8-20;/h2*1-12,23,33H,13-19H2,(H,29,30);1H2
